US06586441B2
2-Amino-4-(4,5-dihydro-furan-2-yl)-6-[(4-methyl-pyridin-2-ylmethyl)-amino]-pyrimidine-5-carbonitrile
From trifluoromethanesulfonic acid 2-amino-5-cyano-6-(4,5-dihydro-furan-2-yl)-pyrimidin-4-yl ester, C-(4-methyl-pyridin-2-yl)-methylamine dihydrochioride and DBU in DME. ES-MS m/e (%): 309 (M+H+, 100).

reactant | trifluoromethanesulfonic acid 2-amino-5-cyano-6-(4,5-dihydro-furan-2-yl)-pyrimidin-4-yl ester | NC1=NC(=C(C(=N1)OS(=O)(=O)C(F)(F)F)C#N)C=1OCCC1 | C10H7F3N4O4S
reactant | C-(4-methyl-pyridin-2-yl)-methylamine dihydrochioride | Cl.Cl.CC1=CC(=NC=C1)CN
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-(4,5-dihydro-furan-2-yl)-6-[(4-methyl-pyridin-2-ylmethyl)-amino]-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OCCC1)C#N)NCC1=NC=CC(=C1)C | C16H16N6O
